US07709481B2
1.39 g 2-Chloro-N-hydroxy-4-[4-methyl-2-(1-methyl-cyclohexyl)-oxazol-5-ylmethoxy]-benzamidine were dissolved in 10 ml dichloromethane. 0.36 ml pyridine and 0.56 ml phenylchloroformate were added and the mixture stirred at room temperature for ten minutes. The mixture was diluted by the addition of 30 ml acetonitrile and 2.75 ml 1,8-Diazabicyclo[5.4.0]undec-7-ene were added. The mixture was stirred at room temperature for 10 minutes. The mixture was evaporated in vacuo and the resulting crude material was purified by reversed phase HPLC to obtain 950 mg 3-{2-Chloro-4-[4-methyl-2-(1-methyl-cyclohexyl)-oxazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one as an amorphous lyophilisate.

reactant | 2-Chloro-N-hydroxy-4-[4-methyl-2-(1-methyl-cyclohexyl)-oxazol-5-ylmethoxy]-benzamidine | 1.39 g | ClC1=C(C(=N)NO)C=CC(=C1)OCC1=C(N=C(O1)C1(CCCCC1)C)C | C19H24ClN3O3
reactant | pyridine | 0.36 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 0.56 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 2.75 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-{2-Chloro-4-[4-methyl-2-(1-methyl-cyclohexyl)-oxazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 950 mg | ClC1=C(C=CC(=C1)OCC1=C(N=C(O1)C1(CCCCC1)C)C)C1=NOC(N1)=O | C20H22ClN3O4
